US06534522B2
F) Diethyl 2-((4-benzylpyridin-2-yl)methyl)malonate
Diethyl malonate (1.15 mL, 7.60 mmol) was added to a solution of sodium ethoxide (0.106 g of sodium in 5.0 mL of EtOH). To the clear solution was then added gradually a solution of 4-benzyl-2-(chloromethyl) pyridine (0.59 g, 2.7 mmol) in EtOH (5 mL). After the mixture had been heated at reflux for 4.5 h, the EtOH was removed under reduced pressure. The residue was dissolved in EtOAc (50 mL), washed with NH4Cl (2×50 mL)), dried over Na2SO4 and was concentrated under reduced pressure. The crude compound was purified by filtration on silica gel using EtOAc/n-hexane as eluant to afford the title compound as a colorless oil (0.9 g, 98%) 1H NMR (CDCl3) δ1.12 (t, J=7.2 Hz, 4H), 1.28 (t, J=7.2 Hz, 2H), 3.25-3.40 (m, 2H), 3.92 (s, 2H), 4.00-4.30 (m, 5H), 6.93 (d, J=4.8 Hz, 1H), 7.00 (s, -H), 7.15 (d, J=7.2 Hz, 2H), 7.20-7.40 (m, 3H), 8.38 (d, J=5.1 Hz, 1H); IR (film) 2984, 1752, 1736, 1606 cm−1.

reactant | Diethyl malonate | 7.60 mmol, 1.15 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 5.0 mL, 0.106 g | [O-]CC.[Na+]
reactant | 4-benzyl-2-(chloromethyl) pyridine | 2.7 mmol, 0.59 g | C(C1=CC=CC=C1)C1=CC(=NC=C1)CCl | C13H12ClN
solvent | EtOH | 5 mL | CCO | C2H6O
product | Diethyl 2-((4-benzylpyridin-2-yl)methyl)malonate | 0.9 g, 98% | C(C1=CC=CC=C1)C1=CC(=NC=C1)CC(C(=O)OCC)C(=O)OCC | C20H23NO4
